US08222243B2
(3,5-Dimethyl-piperazin-1-yl)-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl) -thiophen-2-yl]-methanone
Prepared from 5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carboxylic acid and 2,6-cis-dimethylpiperazine by the method described in Example 2 Method B reversing the order of addition such that solid acid chloride was added to a THF solution of triethylamine and piperazine derivative. The reaction mixture was evaporated to an oil and partitioned between EtOAc (5 mL) and water (5 mL). The organic fraction was further washed with brine (2×5 mL), dried over MgSO4, filtered, and evaporated to a colorless solid (79 mg, 85%). 1H NMR (CDCl3) 1.03 (d, J=4.8, 6 H), 1.72-2.20 (m, 1 H), 2.29 (s, 3 H), 2.58 (br, 1 H), 2.78-2.90 (m, 2 H), 4.25 (br, 2 H), 7.24-7.26 (m, 1 H), 7.37-7.39 (m, 1 H). 13C NMR 7.9, 19.4, ˜50 (br obsc), 51.3, 114.7, 118.7 (q, J=271), 128.0, 129.3, 131.2, 140.2, 155.1 (q, J=40), 157.9, 162.4. 19F NMR −63.2. LC/MS 4.43 min, [M+1]+ 374.

reactant | 5-(4-Methyl-5-trifluoromethyl-isoxazol-3-yl)-thiophene-2-carboxylic acid | CC=1C(=NOC1C(F)(F)F)C1=CC=C(S1)C(=O)O | C10H6F3NO3S
reactant | 2,6-cis-dimethylpiperazine | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | THF | C1CCOC1 | C4H8O
reactant | piperazine | N1CCNCC1 | C4H10N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (3,5-Dimethyl-piperazin-1-yl)-[5-(4-methyl-5-trifluoromethyl-isoxazol-3-yl) -thiophen-2-yl]-methanone | CC1CN(CC(N1)C)C(=O)C=1SC(=CC1)C1=NOC(=C1C)C(F)(F)F | C16H18F3N3O2S
